US04668280
10 ml (0.11 mole) of propionyl chloride are added to 2.9 g (0.01 mole) of 5-amino-4-cyano-1-(2-chloro-4-trifluoromethoxy-phenyl)-pyrazole in 30 ml of chloroform at 0° C., with stirring, and a solution of 1.8 ml (0.02 mole) of pyridine in 15 ml of chloroform is then added, also at 0° C. When the addition has ended, stirring is continued at room temperature for 20 hours, the solvent is stripped off, the residue is taken up in 50 ml of ethanol, aqueous ammonia is added until the reaction is alkaline, the volatile constituents are removed in vacuo, the residue is taken up in 100 ml of chloroform, the mixture is washed with water, then with 2N aqueous hydrochloric acid and again with water and dried over sodium sulphate and the solvent is removed in vacuo. 2.7 g (75.3% of theory) of 4-cyano-1-(2-chloro-4-trifluoromethoxy-phenyl)-5-propionylamino-pyrazole of melting point 127° C. are obtained.

reactant | propionyl chloride | 0.11 mole, 10 ml | C(CC)(=O)Cl | C3H5ClO
reactant | 5-amino-4-cyano-1-(2-chloro-4-trifluoromethoxy-phenyl)-pyrazole | 0.01 mole, 2.9 g | NC1=C(C=NN1C1=C(C=C(C=C1)OC(F)(F)F)Cl)C#N | C11H6ClF3N4O
reactant | pyridine | 0.02 mole, 1.8 ml | N1=CC=CC=C1 | C5H5N
reactant | ammonia | N | H3N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-cyano-1-(2-chloro-4-trifluoromethoxy-phenyl)-5-propionylamino-pyrazole | 2.7 g, 75.3% | C(#N)C=1C=NN(C1NC(CC)=O)C1=C(C=C(C=C1)OC(F)(F)F)Cl | C14H10ClF3N4O2
